US08455507B2
Method F: 1-(2,2,2-trifluoroethyl)piperazine dihydrobromide salt
A suspension of 1-tosyl-4-(2,2,2-trifluoroethyl)piperazine (700 mg, 2.2 mmol) in a 30% HBr/acetic acid solution was stirred at 90° C. for 90 minutes. Toluene was added to the suspension. An orange solid was filtered off and washed with diethyl ether to afford the desired compound (400 mg, 55% yield) as a bis HBr salt.

reactant | 1-tosyl-4-(2,2,2-trifluoroethyl)piperazine | 2.2 mmol, 700 mg | S(=O)(=O)(C1=CC=C(C)C=C1)N1CCN(CC1)CC(F)(F)F | C13H17F3N2O2S
reactant | HBr acetic acid | Br.C(C)(=O)O
reactant | HBr | Br | BrH
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(2,2,2-trifluoroethyl)piperazine dihydrobromide salt | 400 mg, 55% yield | Br.Br.FC(CN1CCNCC1)(F)F | InChI=1S/C6H11F3N2.2BrH/c7-6(8,9)5-11-3-1-10-2-4-11;;/h10H,1-5H2;2*1H
